* source TERMOMETRO
X_U1A         N00331 N00310 VCC VSS N00296 LM358
Q_Q1         VCC N00296 N00306 Q2N3904
R_R1         N00310 N00306  1k TC=0,0 
D_D1         N00310 0 D1N4148 
V_V1         N00331 0 0
V_V2         VCC 0 5
V_V3         0 VSS 5
Q_Q2         VCC N00951 N00965 Q2N3904
X_U1B         N01801 N00957 VCC VSS N00951 LM358
V_V4         N01805 0 700mV
R_R2         N00957 N00965  1k TC=0,0 
D_D2         N00957 0 D1N4148 
R_R3         N01801 N01805  1k TC=0,0 
D_D3         N01801 0 D1N4148 
