* source TERMOMETRO3
V_V1         VCC 0 5
V_V2         VSS 0 5
X_U2A         N00806 N00502 VCC VSS N00494 LM358
D_D1         0 N00502 D1N4148 
R_R3         N00502 N00494  100 TC=0,0 
V_V3         N00806 0 1.2
