* source TERMOMETRO_4
X_D1         0 N00067 LM385 
R_R1         N00067 VCC  188.2k TC=0,0 
X_U1A         N00067 N00238 VCC VSS N00231 LM358
D_D2         0 N00238 D1N4148 
R_R2         N00238 N00231  1k TC=0,0 
Q_Q1         N00349 N00335 N00342 Q2N3904
Q_Q2         0 N00342 N00335 Q2N3904
R_R3         N00335 N00067  1k TC=0,0 
R_R4         0 N00342  1.4M TC=0,0 
R_R5         N00067 N00935  1k TC=0,0 
V_V1         VCC 0 5
V_V2         0 VSS 5
D_D3         N00349 N00067 D1N4148 
R_R7         N00231 N02982  1k TC=0,0 
X_U2B         N03096 N02982 VC+ VS- N02992 LM358
R_R9         N03096 0  1k TC=0,0 
R_R6         N02982 N02992  1k TC=0,0 
R_R8         N00935 N03096  1k TC=0,0 
