* source TERMOMETRO_5
R_R2         N02783 N02751  1k TC=0,0 
V_V1         VCC 0 5
D_D2         0 N02783 D1N4148 
X_D1         0 N02631 LM385 
R_R5         N02631 N02839  1k TC=0,0 
X_U1A         N02631 N02783 VCC VSS N02751 LM358
R_R1         N02631 VCC  116564 TC=0,0 
X_U2B         N02751 N02839 VCC VSS N02787 LM358
V_V2         0 VSS 5
V_V3         N02631 N03011 787.35mV
R_R4         N03465 N02631  1.4M TC=0,0 
M_M1         N03011 N03465 0 0 IRF150
M_M2         0 N03465 N03465 N03465 IRF150
