* source TERMOMETRO_FINAL
X_D1         0 N05719 LM385 
V_V1         VC+ 0 5
R_R1         N05719 VC+  188.2K TC=0,0 
V_V2         0 VS- 5
R_R4         0 N05719  1.2k TC=0,0 
R_R5         0 N05719  1.2k TC=0,0 
D_D4         N09642 N05719 D1N4148 
X_U3B         N09628 N09647 VS- VC+ N09382 LM358
R_R6         N10835 N09628  1k TC=0,0 
R_R7         N09642 N09647  1k TC=0,0 
R_R8         N09628 N09382  1k TC=0,0 
R_R9         0 N09647  1k TC=0,0 
D_D3         N10835 N05719 D1N4148 
