* source P
V_V1         VC+ 0 5
D_D2         N03927 N03605 D1N4148 
R_R2         0 N03605  1.2k TC=0,0 
R_R3         0 N03605  1.2k TC=0,0 
R_R1         N03605 VC+  188.2k TC=0,0 
X_U2B         N03999 N03779 VC+ VS- N03789 LM358
X_D1         0 N03605 LM385 
V_V2         0 VS- 5
R_R7         N03999 0  1k TC=0,0 
R_R5         N03989 N03999  1k TC=0,0 
R_R4         N03927 N03779  1k TC=0,0 
R_R6         N03779 N03789  1k TC=0,0 
D_D3         N03989 N03605 D1N4148 
