* source T3
R_R1         N00067 VC+  3765 TC=0,0 
X_D1         0 N00067 LM385 
X_U1A         N00067 N00233 VC+ VS- N00392 LM358
D_D2         N00439 N00233 D1N4148 
R_R2         0 N00233  1235 TC=0,0 
R_R3         0 N01282  1235 TC=0,0 
Q_Q1         VC+ N00392 N00439 Q2N3904
Q_Q2         VC+ N00392 N00456 Q2N3904
V_V1         VC+ 0 5
V_V2         0 VS- 5
R_R4         N00439 N00937  1k TC=0,0 
R_R5         N00456 N00933  1k TC=0,0 
R_R6         N00937 N00987  1k TC=0,0 
R_R7         N00933 0  1k TC=0,0 
V_V3         N00456 N01282 0.79
X_U2         N00933 N00937 VC+ VS- N00987 LM741
