* source TERMOMETRO_INFINITO1
Q_Q2         VC+ N02118 N02376 Q2N3904
D_D2         N02364 N02372 D1N4148 
R_R1         N02138 VC+  188.2k TC=0,0 
X_U1A         N02138 N02364 VC+ VS- N02118 LM358
R_R2         0 N02364  1.2k TC=0,0 
V_V1         VC+ 0 5
R_R5         N02376 N02522  1k TC=0,0 
R_R3         0 N03073  1.2k TC=0,0 
R_R4         N02372 N02312  1k TC=0,0 
Q_Q1         VC+ N02118 N02372 Q2N3904
X_D1         0 N02138 LM385 
R_R7         N02522 0  1k TC=0,0 
V_V2         0 VS- 5
R_R6         N02312 N02322  1k TC=0,0 
X_U1B         N02522 N02312 VC+ VS- N02322 LM358
V_V3         N02376 N03073 0.797
