* source TERMOMETRO2
D_D2         N02375 0 D1N4148 
R_R2         N02375 N02451  1k TC=0,0 
Q_Q2         VCC N02417 N02451 Q2N3904
R_R3         N02375 1  1k TC=0,0 
X_U1B         N02890 N02375 VCC VSS N02417 LM358
D_D3         N02375 0 D1N4148 
V_V4         N02890 0 700mV
Q_Q3         VCC N02417 1 Q2N3904
V_V5         VCC 0 5
V_V6         VSS 0 5
X_U2         1 N02451 VCC VSS N03901 LM741
