* source GENERADOR_TRIANGULAR_CUADRADA
V_V1         VCC 0 15
V_V2         0 VSS 15
X_U1A         N00787 N00360 VCC VSS N00373 TL082
R_RJ1         N00360 N00547  1690 TC=0,0 
R_RJ2         N00665 N00373  1690 TC=0,0 
J_J1         N00547 N00360 N00495 J111 
J_J2         N00495 N00373 N00665 J111 
R_R1         N00787 N00373  8200 TC=0,0 
R_R2         0 N00787  18981.48 TC=0,0 
C_C         0 N00360  1u  TC=0,0 
J_J4         N02120 0 N02142 J111 
R_RJ3         N02090 N02098  {n} TC=0,0 
R_RJ4         N02142 0  {n} TC=0,0 
J_J3         N02098 N02090 N02120 J111 
V_V3         N02090 0 18.9207
.PARAM  n=1
